US07714009B2
N7-Benzyl-N2-mesityl-1-methyl-N7-propyl-1H-benzimidazole-2,7-diamine
A solution of 0.56 g (1.8 mmol) of N7-benzyl-2-chloro-1-methyl-N7-propyl-1H-benzimidazol-7-amine in 0.75 mL (5.4 mmol) of mesityl amine was heated to 130° C. After stirring for 24 h, the mixture was dissolved in ethyl acetate and washed with saturated sodium bicarbonate, brine, dried over sodium sulfate, filtered and concentrated to give a tan solid. The solid thus obtained was purified by flash chromatography eluting with a 1.3% methanol/dichloromethane mixture to give 0.59 g (80%) of the title compound as a cream colored solid.

reactant | N7-benzyl-2-chloro-1-methyl-N7-propyl-1H-benzimidazol-7-amine | 1.8 mmol, 0.56 g | C(C1=CC=CC=C1)N(C1=CC=CC2=C1N(C(=N2)Cl)C)CCC | C18H20ClN3
reactant | mesityl amine | 5.4 mmol, 0.75 mL | C1(=C(C(=CC(=C1)C)C)N)C | C9H13N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N7-Benzyl-N2-mesityl-1-methyl-N7-propyl-1H-benzimidazole-2,7-diamine | 0.59 g, 80% | C(C1=CC=CC=C1)N(C1=CC=CC2=C1N(C(=N2)NC2=C(C=C(C=C2C)C)C)C)CCC | C27H32N4
